US04898874
7-(Bromomethyl)-5-chloro-3-phenyl-2,1-benzisoxazole
A mixture of 16.2 g (0.067 mole) of 5-chloro-7-methyl-3-phenyl-2,1-benzisoxazole, 11.9 g (0.067 mole) of N-bromosuccinimide, 275 ml of carbon tetrachloride and 0.1 g of dibenzoylperoxide was heated at reflux under illumination of a flood lamp for 2 hr. The mixture was filtered and the filtrate was washed once with a saturated sodium bicarbonate solution, dried over sodium sulfate and concentrated to give a yellow solid as residue. An NMR analysis of the residue showed it was a mixture containing 8% of starting methyl compound, 83% of monobromo compound and 9% of dibromo compound. An analytical sample, m.p. 142°-144° C., was obtained by recrystallizing twice from ethyl acetate.

reactant | 5-chloro-7-methyl-3-phenyl-2,1-benzisoxazole | 0.067 mole, 16.2 g | ClC=1C=C(C=2C(=C(ON2)C2=CC=CC=C2)C1)C | C14H10ClNO
reactant | N-bromosuccinimide | 0.067 mole, 11.9 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | dibenzoylperoxide | 0.1 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | 275 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 7-(Bromomethyl)-5-chloro-3-phenyl-2,1-benzisoxazole | BrCC1=CC(=CC2=C(ON=C21)C2=CC=CC=C2)Cl | C14H9BrClNO
